US05387585
3. 3.6 g of ethyl 5-(2,4-dimethoxybenzyl)-5,6-dihydro-6-oxo-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylate are heated to reflux in 12.5 ml of trifluoroacetic acid for 2 h. The reaction mixture is then evaporated in a vacuum and the residue is partitioned between dichloromethane and water. The mixture is neutralized by the addition of sodium hydrogen carbonate. The emulsion obtained is filtered through Dicalite and the Dicalite is rinsed with dichloromethane. The phases of the filtrate are separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried and evaporated in a vacuum. The residue is boiled in ethyl acetate; the crystals obtained are filtered off. There are obtained 1.6 g of ethyl 5,6-dihydro-6-oxo-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylate of m.p. 263°-264° C.

reactant | ethyl 5-(2,4-dimethoxybenzyl)-5,6-dihydro-6-oxo-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylate | 3.6 g | COC1=C(CN2CC=3N(C4=C(C2=O)SC=C4)C=NC3C(=O)OCC)C=CC(=C1)OC | C21H21N3O5S
solvent | trifluoroacetic acid | 12.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 5,6-dihydro-6-oxo-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepine-3-carboxylate | 1.6 g | O=C1NCC=2N(C3=C1SC=C3)C=NC2C(=O)OCC | C12H11N3O3S
